US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole (97 mg) in dichloromethane (3 mL) were added triethylamine (0.035 mL) and 4-nitrophenyl chloroformate (35 mg), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 4-(2-aminoethyl)morpholine (41 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water, a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate-dichloromethane/methanol=10/1-5/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-{[4-(3-{3-[2-(morpholin-4-yl)ethyl]ureido}propoxy)phenyl]-methyl}-1H-pyrazole (58 mg). This material was dissolved in methanol (3 mL). To the solution was added sodium methoxide (28% methanol solution, 0.03 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (39 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 97 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCN)C(C)C | C30H41N3O11
reactant | triethylamine | 0.035 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 35 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-(2-aminoethyl)morpholine | 41 mg | NCCN1CCOCC1 | C6H14N2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-5-isopropyl-4-{[4-(3-{3-[2-(morpholin-4-yl)ethyl]ureido}propoxy)phenyl]-methyl}-1H-pyrazole | 58 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCNC(=O)NCCN1CCOCC1)C(C)C | C37H53N5O13
